US08703932B2
U.S. Pat. No. 3,819,780 discloses a process which involves reacting a bis-silyl compound of 5-Azacytosine with 1-O-acetyl-2,3,5-tri-O-benzoyl-beta-D-ribofuranose in the presence of SnCl4 and absolute dichloroethane to give 5-azacytidine tribenzoate, which is further reacted with methanolic ammonia to give 5-azacytidine.

reactant | 5-Azacytosine | N1C(=O)N=C(N)N=C1 | C3H4N4O
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-beta-D-ribofuranose | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 5-azacytidine tribenzoate | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=O)N=C(N)N=C1 | C29H24N4O8
